US07488733B2
Methyl 2-cyano-3-(methylsulfanyl)-3-(3-pyridinylamino)-2-propenoate
1.39 g (14.8 mmol) of 3-aminopyridine are dissolved in 50 ml of THF, cooled to −20° C., and 7.4 ml of a 2M solution of n-butyllithium in hexane are added. After stirring for 15 min, 2.00 g (9.84 mmol) of methyl 3,3-bis(methylthio)-2-cyanoacrylate are added. The mixture is warmed to room temperature while stirring and then hydrolyzed with ice-water. The product is extracted with dichloromethane. After drying over sodium sulfate, the solvent is removed in vacuo and the residue is purified by preparative HPLC. 0.44 g (18.1% of theory) of the desired product is obtained.

reactant | 3-aminopyridine | 14.8 mmol, 1.39 g | NC=1C=NC=CC1 | C5H6N2
reactant | n-butyllithium | C(CCC)[Li]
reactant | methyl 3,3-bis(methylthio)-2-cyanoacrylate | 9.84 mmol, 2.00 g | CSC(=C(C(=O)OC)C#N)SC | C7H9NO2S2
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | Methyl 2-cyano-3-(methylsulfanyl)-3-(3-pyridinylamino)-2-propenoate | C(#N)C(C(=O)OC)=C(NC=1C=NC=CC1)SC | C11H11N3O2S
